data/oMe_Silver.jsonl
{"reaction_id": "NR-110_1-c1ccccc1_2-P(=O)(c1ccccc1)c2ccccc2_3-CC_4-C=CC","name": "Horner-Wadsworth-Emmons Reaction","level": "medium","reactants_smiles": ["P(=O)(Oc1ccccc1)(Oc1ccccc1)C(P(=O)(c1ccccc1)c2ccccc2)CC","O=CC=CC"],"products_smiles": ["C(C=CC)=C(P(=O)(c1ccccc1)c2ccccc2)CC"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "P(=O)(Oc1ccccc1)(Oc1ccccc1)[C-](P(=O)(c1ccccc1)c2ccccc2)CC","rationale": "The base abstracts the acidic α-proton next to the phosphonate due to strong electron-withdrawing effects of the P=O group, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "P(=O)(Oc1ccccc1)(Oc1ccccc1)C(P(=O)(c1ccccc1)c2ccccc2)(CC)C([O-])C=CC","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1OP1([O-])(Oc1ccccc1)C(P(=O)(c1ccccc1)c2ccccc2)(CC)C(C=CC)O1","rationale": "Intramolecular attack of the alkoxide on phosphorus forms a four-membered oxaphosphetane, favored by proximity and the strong P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C=CC)=C(P(=O)(c1ccccc1)c2ccccc2)CC","rationale": "The oxaphosphetane collapses, eliminating the phosphate group as a stable leaving group, driven by formation of the thermodynamically stable C=C bond."}],"description": "Under basic conditions, the Horner–Wadsworth–Emmons reaction proceeds via deprotonation of the phosphonate to form a stabilized carbanion, nucleophilic attack on the aldehyde, cyclization to an oxaphosphetane intermediate, and elimination to yield the alkene product with high selectivity."}
{"reaction_id": "NR-002_1-c1occc1_2-c1ccccc1","name": "Acid-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(=O)(c1occc1)Cc1ccccc1","C(=O)(c1occc1)Cc1ccccc1"],"products_smiles": ["C(=O)(c1occc1)C(c1ccccc1)C(O)(Cc1ccccc1)c1occc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=Cc1ccccc1)(O)c1occc1","rationale": "Acid catalysis protonates the carbonyl oxygen, increasing α-proton acidity and enabling enol formation via resonance stabilization of the resulting cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(c1occc1)Cc1ccccc1","rationale": "Protonation of the second carbonyl oxygen enhances its electrophilicity by withdrawing electron density, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1occc1)C(c1ccccc1)C(O)(Cc1ccccc1)c1occc1","rationale": "The nucleophilic enol π-system attacks the activated carbonyl carbon, favored by strong electrophilicity and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(c1occc1)C(c1ccccc1)C(O)(Cc1ccccc1)c1occc1","rationale": "Deprotonation restores the neutral β-hydroxyketone, driven by the stability of the carbonyl and alcohol functional groups under acidic workup."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, generating an electrophilic partner and a nucleophilic enol. The enol attacks the protonated carbonyl, forming a new C–C bond. Subsequent proton transfers regenerate the carbonyl and yield the β-hydroxyketone product."}
